US07205326B2
Preparation of 4-Chloromethyl-2-[2-(3,4-dichloro-phenyl)-vinyl]-oxazole
2.3 g (10.6 mmol) 3-(3,4-Dichloro-phenyl)-acrylamide, 4.73 g (37,2 mmol) 1,3-dichloro acetone and 15.0 ml toluene were kept at reflux temperature for 16 h with continuous removal of water by use of a Dean-Stark trap. After removal of solvents in vacuo, the residue was purified by flash column chromatography (heptane/ethyl acetate 2:1). Yield: 2.88 g (94%) 4-Chloromethyl-2-[2-(3,4-dichloro-phenyl)-vinyl]-oxazole as tan solid.

reactant | 3-(3,4-Dichloro-phenyl)-acrylamide | 10.6 mmol, 2.3 g | ClC=1C=C(C=CC1Cl)C=CC(=O)N | C9H7Cl2NO
reactant | 1,3-dichloro acetone | 37,2 mmol, 4.73 g | ClCC(=O)CCl | C3H4Cl2O
solvent | toluene | 15.0 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Chloromethyl-2-[2-(3,4-dichloro-phenyl)-vinyl]-oxazole | ClCC=1N=C(OC1)C=CC1=CC(=C(C=C1)Cl)Cl | C12H8Cl3NO
